US04873236
5,11-Dihydro-11-[[[2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethanamine in a yield of 43% of theory. Colourless crystals, m.p. 169°-170° C. (ethyl acetate).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethanamine | C(CC)N(CCCC1CCN(CC1)CCN)CCC | C16H35N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,11-Dihydro-11-[[[2-[4-[3-(dipropylamino)propyl]-piperidin-l-yl]ethyl]amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 43% | C(CC)N(CCCC1CCN(CC1)CCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CCC | C29H42N6O2
